US09233964B2
4-benzyl-4,7-diaza-spiro[2.5]octane-7-carboxylic acid tert-butyl ester
To EtMgBr (344 mL) in THF cooled to −78° C. was added Ti(OiPr)4 (39 g, 137.93 mmol), followed by commercially available 4-benzyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester (40 g, 137.93 mmol) and the resultant reaction mixture was heated to reflux for 1 h. After cooling the reaction mixture to 5° C., another portion of EtMgBr (344 ml) and Ti(OiPr)4 (39 g, 137.93 mmol) was added. The mixture was stirred for 16 h at RT. The reaction mixture was quenched with NH4Cl solution and stirred for 15 min and filtered through a celite bed and washed with EtOAc. The aqueous layer was again extracted with EtOAc (3×). The combined EtOAc layers were washed with water and dried over Na2SO4 and concentrated under reduced pressure. Purification by column chromatography to afforded the title compound as a solid (24 g, 58%).

reactant | EtMgBr | 344 mL | CC[Mg+].[Br-]
reactant | 4-benzyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 137.93 mmol, 40 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)CC1=CC=CC=C1)=O | C16H22N2O3
reactant | EtMgBr | 344 ml | CC[Mg+].[Br-]
solvent | THF | C1CCOC1 | C4H8O
catalyst | Ti(OiPr)4 | 137.93 mmol, 39 g | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
catalyst | Ti(OiPr)4 | 137.93 mmol, 39 g | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 4-benzyl-4,7-diaza-spiro[2.5]octane-7-carboxylic acid tert-butyl ester | 24 g, 58% | C(C)(C)(C)OC(=O)N1CCN(C2(CC2)C1)CC1=CC=CC=C1 | C18H26N2O2
